US08278331B2
N-(2,5-Difluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)phenyl)-N′-phenylcyclopropane-1,1-dicarboxamide was dissolved in acetonitrile (5 ml) and 4M HCl in dioxane (0.068 ml, 0.274 mmol) was added slowly with stirring. The mixture was stirred for 1.5 hours at RT as a white solid slowly precipitated from the solution. The salt was collected via suction filtration and washed with diethyl ether. A suspension of the product in a 4:1 mix of acetonitrile and water was lyophilized overnight to obtain N-(2,5-difluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)phenyl)-N′-phenylcyclopropane-1,1-dicarboxamide hydrochloride as a white powder (0.047 g, 65% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.18 (s, 1H), 9.64 (s, 1H), 8.43 (m, 2H), 8.13 (m, 2H), 7.60 (m, 1H), 7.51 (m, 3H), 7.28 (m, 2H), 7.05 (m, 1H), 6.97 (broad s, 1H), 3.84 (s, 3H), 1.63 (m, 2H), 1.53 (m, 2H); MS (ESI) m/z: 490.2 (M+H+).

reactant | N-(2,5-Difluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)phenyl)-N′-phenylcyclopropane-1,1-dicarboxamide | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)F)NC(=O)C1(CC1)C(=O)NC1=CC=CC=C1 | C26H21F2N5O3
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 0.274 mmol, 0.068 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-(2,5-difluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)phenyl)-N′-phenylcyclopropane-1,1-dicarboxamide hydrochloride | 0.047 g, 65% yield | Cl.FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)F)NC(=O)C1(CC1)C(=O)NC1=CC=CC=C1 | InChI=1S/C26H21F2N5O3.ClH/c1-33-15-16(14-30-33)21-11-18(7-10-29-21)36-23-13-19(27)22(12-20(23)28)32-25(35)26(8-9-26)24(34)31-17-5-3-2-4-6-17;/h2-7,10-15H,8-9H2,1H3,(H,31,34)(H,32,35);1H
